US07727988B2
5-(5-chloro-2-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E43)
5-(5-chloro-2-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was treated with a solution of 4N HCl in dioxane (2 eq) to give the title compound.

reactant | 5-(5-chloro-2-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | ClC=1C=C(C(=NC1)F)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H21ClF4N4O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(5-chloro-2-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.ClC=1C=C(C(=NC1)F)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H21ClF4N4O2.2ClH/c25-17-8-18(20(26)30-10-17)19-12-33(22(35)31-21(19)34)7-1-6-32-11-16-9-23(16,13-32)14-2-4-15(5-3-14)24(27,28)29;;/h2-5,8,10,12,16H,1,6-7,9,11,13H2,(H,31,34,35);2*1H/t16-,23+;;/m0../s1
